US06891039B2
a) 5-Chloro-2-(4-fluorophenyl)imidazo-[4,5-b]pyridine
5-Chloro-2-(4-fluorophenyl)-1-(2-methylsulfinyl-4-pyrimidinyl)imidazo[4,5-b]pyridine (200 mg 0.52 mmol) and cyclopentylamine (1 ml) are heated to 80° C. for 1 h, evaporated and purified by SiO2 chromatography (acetone/cyclohexane 10/90 to 20/80) to yield the title compound as white crystals (50 mg 24%).

reactant | 5-Chloro-2-(4-fluorophenyl)-1-(2-methylsulfinyl-4-pyrimidinyl)imidazo[4,5-b]pyridine | 0.52 mmol, 200 mg | ClC1=CC=C2C(=N1)N=C(N2C2=NC(=NC=C2)S(=O)C)C2=CC=C(C=C2)F | C17H11ClFN5OS
reactant | cyclopentylamine | 1 ml | C1(CCCC1)N | C5H11N
product | 5-Chloro-2-(4-fluorophenyl)imidazo-[4,5-b]pyridine | 50 mg, 24% | ClC1=CC=C2C(=N1)N=C(N2)C2=CC=C(C=C2)F | C12H7ClFN3
